Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dicloxacillin / Penicillins / Ampicillin
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is an ___ yo M with h/o pulmonary fibrosis, pulmonary 
hypertension, CHF, s/p bioprothesic AVR, afib on coumadin who 
presented to his ___ clinic with shortness of breath.  He was 
seen today in ___ (note in OMR) with weakness, weakness, 
shortness of breath and cough productive of blood-tinged sputum. 
He had been seen recently in clinic and lasix was increased with 
good result. His oxygen satuiration in clinic was 88% and he was 
referred to the ED.
  
In ED, initial vitals 99.4 88 107/60 18 95% 10L. His BNP and 
trop were elevated. He was given vanc, levofloxacin, 
azithromycin and aspirin. He was placed on a non-rebreather. CXR 
showed evidence of CHF.
  
Vitals on transfer: 98.7 63 111/54 sat 97% on NRB.
  
He states that he has had hemoptysis for the past 2 weeks. the 
worsened shortness of breath he noticed this morning. He had to 
sit down and rest when he went outside to get his paper. He 
denies chest pain or pressure. He denies fever or nightsweats.
  
 
Past Medical History:
Afib- on coumadin, prosthetic valve.      
Interstitial lung disease/Pulmonary fibrosis- with chronic mild 
exertional dyspnea       
Type 2 DM      
Gout      
Obstr Sleep Apnea      
Neuropathy      
Carotid artery Stenosis      
CAD      
CHF 

 
Social History:
___
Family History:
Family history is significant for coronary artery disease and 
diabetes. His mother died of TB in ___

 
Physical Exam:
On admission:
Tmax: 35.9 °C (96.7 °F)  
Tcurrent: 35.9 °C (96.7 °F)  
HR: 62 (62 - 75) bpm  
BP: 111/66(77) {107/55(67) - 111/66(77)} mmHg  
RR: 31 (21 - 35) insp/min  
SpO2: 93%  
Heart rhythm: SR (Sinus Rhythm)  
General Appearance: Well nourished, No acute distress, No(t) 
Diaphoretic  
Eyes / Conjunctiva: PERRL  
Head, Ears, Nose, Throat: Normocephalic  
Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) 
Systolic)  
Peripheral Vascular: (Right radial pulse: Present), (Left radial 
pulse: Present), (Right DP pulse: Present), (Left DP pulse: 
Present)  
Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: 
Crackles : inspiratory bilateral, No(t) Wheezes : )  
Abdominal: Soft, Non-tender, Bowel sounds present  
Extremities: Right lower extremity edema: 1+, Left lower 
extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing  
Skin: Warm, No(t) Rash:  
Neurologic: Attentive, Responds to: Not assessed, Movement: Not 
assessed, No(t) Sedated, Tone: Normal  
.
On discharge:
Tm 96.7 118/60 58 26 99% CPAP; O = 650 since 12am
General Appearance: AOx3, in no acute distress
HEENT/neck: PERRL, EOMI, no cervical LAD 
Cardiovascular: nl S1/S2, RRR, no m/r/g 
Peripheral Vascular: 1+ distal pulses 
Respiratory / Chest: coarse breath sounds at bases with rhonchi, 
no wheezing or rales
Abdominal: Soft, Non-tender, Bowel sounds present  
Extremities: 1+ pedal edema L>R, grafting scar in LLE
Skin: rash
Neurologic: AOx3, ___ motor strength, no sensory deficits.  

 
Pertinent Results:
On Admission:
=============
___:15PM BLOOD WBC-8.7 RBC-3.73* Hgb-10.0* Hct-30.0* 
MCV-80* MCH-26.7* MCHC-33.2 RDW-16.6* Plt ___
___ 01:15PM BLOOD Neuts-80* Bands-0 Lymphs-11* Monos-9 
Eos-0 Baso-0 ___ Myelos-0
___ 01:15PM BLOOD Glucose-108* UreaN-48* Creat-2.2* Na-138 
K-5.2* Cl-101 HCO3-23 AnGap-19
___ 01:15PM BLOOD proBNP-2799*
___ 01:15PM BLOOD cTropnT-0.17*
___ 01:15PM BLOOD CK(CPK)-64
___ 01:15PM BLOOD ___ PTT-29.6 ___
.
Microbiology:
Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
.
On Discharge:
=============
___ 06:40AM BLOOD WBC-10.6 RBC-3.86* Hgb-10.1* Hct-31.2* 
MCV-81* MCH-26.1* MCHC-32.3 RDW-16.0* Plt ___
___ 06:40AM BLOOD Glucose-203* UreaN-55* Creat-1.4* Na-138 
K-4.4 Cl-103 HCO3-28 AnGap-11
___ 06:40AM BLOOD ALT-58* AST-28 AlkPhos-63 TotBili-0.3
___ 01:15PM BLOOD proBNP-2799*
___ 01:15PM BLOOD cTropnT-0.17*
___ 08:50PM BLOOD CK-MB-4 cTropnT-0.25*
___ 03:48AM BLOOD CK-MB-3 cTropnT-0.18*
___ 04:14AM BLOOD CK-MB-2 cTropnT-0.07*
___ 06:40AM BLOOD Albumin-3.2*
___ 04:42AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.6
___ 03:09PM BLOOD calTIBC-360 VitB12-1054* Folate-GREATER 
TH Ferritn-208 TRF-277
.
Imaging:
Chest X-ray ___ - New diffuse alveolar opacities throughout 
both lungs and perihilar haziness are findings consistent with 
moderate-to-severe
pulmonary edema. Probable moderate layering pleural effusions 
also exist. 
Opacification of the bases is greater than the upper lung zones, 
likely de to underlying chronic interstitial lung disease seen 
on prior chest radiographs and CT. Median sternotomy wires are 
intact. Mediastinal and hilar contours are within normal limits. 
Evaluation of the cardiac silhouette is limited due to pleural 
fluid. There is no pneumothorax or definite focal consolidation. 
IMPRESSION:  1. New moderate-to-severe pulmonary edema 
superimposed upon known chronic interstial lung disease. 
2. Possible new bilateral pleural effusions.  
.
CT scan ___:
Known fibrotic changes, likely to reflect mild-to-moderate UIP.  

Newly appeared ground-glass opacities in both lungs and in 
diffuse 
distribution, suggesting either acute exacerbation or 
superinfection, for 
example with PCP. Given the distribution of the changes, acute 
allergic 
alveolitis is less likely. 
.
ECHO ___: Compared with the findings of the prior study 
(images reviewed) of ___, the posterior wall is now 
severely hypokinetic/akinetic
.
 
Brief Hospital Course:
___ yo M with h/o CHF, pulmonary fibrosis and pulmonary 
hypertension presenting with dyspnea, hypoxemia, elevated BNP 
and bilateral infiltrates on chest xray. Likely had CAP and CHF 
exacerbation with underlying IPF, improved with antibiotics, 
prednisone course and diuresis.
.
ACTIVE ISSUES:
==============
# Hypoxemia: Initial differential included CHF, pneumonia or 
worsening UIP/IPF. Ruled out for flu. He was started on 
non-rebreather and did not require intubation. He was diuresed 
with IV lasix, started on high dose IV steroids and covered for 
CAP with Azithromycin and Ceftriaxone. He continued to require 
100% NRB on hospital day 2. High dose steroids were stopped for 
one day as unclear whether IPF flare but re-started once CT 
chest findings more consistent with IPF and overlying pulmonary 
edema. He was weaned to 5 L nasal cannula with high-dose 
steroids, aggressive diuresis (-4L) and antibiotics. He was 
stable after coming to the floor and was maintaining sats on 4L 
O2 nasal cannula. He completed a 5-day course of azithromycin 
and will have a total of 7-days of ceftriaxone/cefpodoxime. He 
was restarted on his home lasix dose for continued diuresis and 
was largely euvolemic on exam. Pulmonology evaluated patient and 
recommended a taper of prednisone from 60mg over 2 weeks until 
follow up with Dr. ___. He was started on bactrim prophylaxis 
while on steroids. Patient's initial hypoxemia was likely in the 
setting of CHF exacerbation and community acquired pneumonia 
causing severe symptoms given underlying structural disease due 
to IPF. Patient was discharged to rehab on ___ O2 and will 
likely need temporary home O2 after going home. 
.
# NSTEMI: Had elevated troponin which peaked at 0.25 with normal 
CK and CK-MB, no new ECG changes. TTE showed a posterior wall 
motion abnormality which per Dr. ___ was seen on previous 
studies, though the official read said this was new since ___. 
Patient had no chest pain or other symptoms. He was continued on 
ASA 81mg, simvastatin 40mg, and on atenolol and lisinopril upon 
discharge. He should follow up with his cardiologist as 
outpatient.
.
# Hemoptysis: patient had 2-week history of bloody sputum 
starting 2 weeks prior to admission which gradually imprvoed 
throughout hospitalization. His INR was supratherapeutic on 
admission and coumadin was held as below. Small amounts of 
hemoptysis were likely due to infection or CHF with underlying 
IPF and supratherapeutic INR. At time of discharge, he did not 
have any more blood tinged sputum and HCT remained stable.
.
# CHF: patient was slightly volume overloaded on admission with 
CT chest demonstrating ground glass opacities consistent with 
IPF and/or pulmonary edema. He was diuresed aggresively in the 
MICU with net negative output of 4L and improvement in 
oxygenation. He was restarted on his home diuretic regimen at 
time of discharge.
.
# Anemia - iron studies consistent with iron deficiency anemia, 
likely mixed picture with anemia of chronic inflammation. 
Patient was started on ferrous sulfate supplementation with 
bowel regimen of senna, colace, and miralax. HCT remained stable 
at 32 throughout admission and should be trended as outpatient.
.
INACTIVE ISSUES:
================
# Atrial fib: On coumadin as outpatient, held in setting of 
supratherapeutic INR and restarted at decreased dose on 
discharge given azithromycin use. His INR at time of discharge 
was 3.4 and coumadin dose was 4mg 4x/week and 2mg on the other 3 
days. He will have his INR rechecked at rehab.  
.
# Gout: Held colchicine on admission in setting of mildly 
elevated renal insufficiency and aggressive diuresis. This was 
restarted after renal function normalized. No symptoms of gout 
flare throughout hospitalization.
. 
# Obstructive Sleep Apnea: continued on cpap at night during 
hospital stay. 
.
# GERD: Continued xantac
.
TRANSITION OF CARE:
===================
# INR check - in 2 days for goal INR ___. Coumadin dose at time 
of discharge was 4mg 4x/week and 2mg the other 3 days, INR was 
3.4.
.
# Anemia - should have HCT trended as outpatient and consider 
further work-up. Discharged on iron supplementation.
.
# Home oxygen - discharged to rehab on ___ O2 which should be 
tapered as tolerated. ___ need temporary course of home O2.
.
# Follow-up with pulmonology on ___ to possibly stop steroid 
taper which was inititated for IPF on this hospitalization. Will 
also have repeat PFTs at that time.
.
# Follow-up with cardiology regarding NSTEMI - discharged on 
ASA, statin, atenolol, and lisinopril.
 
Medications on Admission:
ATENOLOL - 25 mg Tablet - one Tablet(s) by mouth once a day
CALCITRIOL - 0.25 mcg Capsule - 1 Capsule(s) by mouth Daily
COLCHICINE - 0.6 mg Tablet - ___ Tablet(s) by mouth once a day
DISOPYRAMIDE [NORPACE CR] - 100 mg Capsule, Extended Release - 1
Capsule, Sustained Release(s) by mouth twice a day
FUROSEMIDE [LASIX] -  (Prescribed by Other Provider) - 20 mg
Tablet - 2 (Two) Tablet(s) by mouth twice a day - lasix 40, 20 
po
LISINOPRIL - 5 mg Tablet - one Tablet(s) by mouth once a day
METFORMIN - 850 mg Tablet - 1 Tablet(s) by mouth twice a day new
dose
RANITIDINE HCL - 150 mg Capsule - one Capsule(s) by mouth twice 
a
day
SIMVASTATIN - 40 mg Tablet - one Tablet(s) by mouth once a day
WARFARIN - 1 mg Tablet - 1 Tablet(s) by mouth daily as needed 
for
warfarin dose As directed by Coumadin provider
___ - 2 mg Tablet - ___ Tablet(s) by mouth daily As 
directed
by Coumadin provider
___ - 5 mg Tablet - 1 Tablet(s) by mouth four times weekly
 
Medications - OTC
ASCORBIC ACID [VITAMIN C] -  (update omr) - 500 mg Tablet - 1
Tablet(s) by mouth daily
ASPIRIN [ASPIRIN LOW DOSE] -  (update omr) - 81 mg Tablet,
Delayed Release (E.C.) - 1 Tablet(s) by mouth daily
CYANOCOBALAMIN (VITAMIN B-12) [VITAMIN B-12] - 1,000 mcg Tablet 
-
1 Tablet(s) by mouth once a day
MULTIVITAMIN WITH IRON-MINERAL -  (OTC) -   Tablet - 1 (One)
Tablet(s) by mouth once a day

 
Discharge Medications:
1. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  
2. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.  
3. docusate sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day).  
4. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
5. disopyramide 100 mg Capsule, Extended Release Sig: One (1) 
Capsule, Extended Release PO Q12H (every 12 hours).  
6. ranitidine HCl 150 mg Capsule Sig: One (1) Tablet PO twice a 
day.  
7. atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.  
8. colchicine 0.6 mg Tablet Sig: ___ Tablets PO DAILY (Daily).  
9. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. furosemide 20 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
11. lisinopril 5 mg Tablet Sig: One (1) Tablet PO once a day.  
12. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. metformin 850 mg Tablet Sig: One (1) Tablet PO twice a day.  

14. warfarin 4 mg Tablet Sig: One (1) Tablet PO MON, WED, ___, 
___.  
15. warfarin 2 mg Tablet Sig: One (1) Tablet PO TUE, ___, SAT.  

16. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
17. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
18. cyanocobalamin (vitamin B-12) 1,000 mcg Tablet Sig: One (1) 
Tablet PO once a day.  
19. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
20. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
21. prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily): ***PLEASE TAPER AS FOLLOWS: take 60mg daily for two 
more days (last day = ___, then take 50mg from ___, then 
take 40mg from ___, then take 30mg from ___, then take 
20mg from ___, take 10mg daily after that.  
22. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily).  
23. cefpodoxime 100 mg Tablet Sig: Two (2) Tablet PO Q12H (every 
12 hours) for 2 days: last day = ___.  
24. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Community acquired pneumonia
Acute on chronic systolic heart failure
Idiopathic pulmonary fibrosis
NSTEMI
  
Secondary:
Atrial fibrillation
Type 2 DM
Gout
CAD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
  
You were admitted to ___ with difficulty berathing and went to 
the ICU. We treated you for an infection in your lungs and fluid 
overload, as well as a possible flare of your IPF. Your 
breathing improved and you were transferred to the regular 
medical floor. You have underlying abnormalities in your lungs 
due to the fibrosis and infection or heart failure exacerbation 
can cause you difficulty with breathing. You will be going to a 
rehab facility on some oxygen and this will be weaned down over 
time. You have 1 more day of antibiotics for your infection and 
you will also be completing a course of steroids for your IPF, 
as described below.
  
You should follow up with your Dr. ___ at the date/time below 
and call Dr. ___ to make a follow up appointment after you 
leave the rehab.
  
We have made the following changes to your medications:
- TAKE cefpodoxime 200mg twice daily for 1 more day after 
leaving the hospital (last day = ___ for your lung 
infection
- TAKE prednisone 60mg daily for two more days (last day = 
___, then take 50mg from ___, then take 40mg from 
___, then take 30mg from ___, then take 20mg from 
___. You will have a follow up appointment on ___ with Dr. 
___ at which point he may discontinue your steroids
- START bactrim 1 double strength tab daily while you are on the 
steroids
- START ferrous sulfate (iron supplement) for your anemia
- START senna, colace, miralax and dulcolax as needed daily to 
help move your bowels
- DECREASE your coumadin to 4mg four times a week and 2mg on the 
other 3 days; please have your INR re-checked in 2 days at rehab 
for a goal INR of ___
- CONTINUE your oxygen therapy, you may need to go home with 
this temporarily after discharge
 
Followup Instructions:
___